US04230703
A mixed liquid of methyl 5,6-dihydro-5-ethyl-11-oxodibenz[b,e]azepine-2-acetate (0.9 g), sodium hydroxide (2 g), methanol (50 ml) and water (20 ml) was heated under refluxing for 2 hours. After the reaction, methanol was distilled off, and the remaining aqueous layer was washed with ether. The aqueous layer was treated with activated carbon powder, and a 5% sulfuric acid aqueous solution was added while cooling the layer with ice. The precipitated crystals were collected by filtration, washed in water, and vacuum-dried over P2O5 to obtain 5,6-dihydro-5-ethyl-11-oxodibenz[b,e]azepine-2-acetic acid (0.7 g), the desired compound, as yellow powdery crystals.

reactant | methyl 5,6-dihydro-5-ethyl-11-oxodibenz[b,e]azepine-2-acetate | 0.9 g | C(C)N1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)OC | C19H19NO3
reactant | sodium hydroxide | 2 g | [OH-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 5,6-dihydro-5-ethyl-11-oxodibenz[b,e]azepine-2-acetic acid | 0.7 g | C(C)N1C2=C(C(C3=C(C1)C=CC=C3)=O)C=C(C=C2)CC(=O)O | C18H17NO3
